US09303035B2
(8R,10R)-8-((1H-Imidazol-1-yl)methyl)-10-(5-chlorofuran-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione
A mixture of ((8R)-10-(5-chlorofuran-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazin-8-yl)methyl methanesulfonate (117 mg, 0.217 mmol), cesium carbonate (142 mg, 0.435 mmol) and imidazole (22.51 mg, 0.331 mmol) in acetonitrile (6 mL) was heated at 80° C. for 16 hours, then at 85° C. for 3.5 hours. Further portions of imidazole (22.51 mg, 0.331 mmol) and cesium carbonate (142 mg, 0.435 mmol) were added and the mixture heated for a further 2 hours. The mixture was cooled to room temperature, diluted with water (30 ml) and extracted with DCM (2×30 ml). The combined organic extracts were washed with brine (30 ml) passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-100% EtOAc/hexane then with 0-10% MeOH/DCM, afforded the title compound as a mixture of diastereomers.

reactant | ((8R)-10-(5-chlorofuran-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazin-8-yl)methyl methanesulfonate | 0.217 mmol, 117 mg | CS(=O)(=O)OC[C@H]1CN2C(C(O1)C=1OC(=CC1)Cl)=C1C(=C2C2=CC(=CC=C2)F)C(N(C(N1C)=O)C)=O | C23H21ClFN3O7S
reactant | cesium carbonate | 0.435 mmol, 142 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | imidazole | 0.331 mmol, 22.51 mg | N1C=NC=C1 | C3H4N2
reactant | imidazole | 0.331 mmol, 22.51 mg | N1C=NC=C1 | C3H4N2
reactant | cesium carbonate | 0.435 mmol, 142 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | (8R,10R)-8-((1H-Imidazol-1-yl)methyl)-10-(5-chlorofuran-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione | N1(C=NC=C1)C[C@H]1CN2C([C@@H](O1)C=1OC(=CC1)Cl)=C1C(=C2C2=CC(=CC=C2)F)C(N(C(N1C)=O)C)=O | C25H21ClFN5O4
